simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vclk (strobe 0) vsource type=pulse val0=0 val1=0.9 delay=0 rise=50p fall=50p width=0.45n period=1n
Vrst (clear_n 0) vsource type=pwl wave=[ 0 0 2n 0 2.1n 0.9 120n 0.9 ]

XDUT (strobe clear_n vdd vss feedback_tick) v2_event_counter_019

tran tran stop=120n maxstep=500p
save strobe clear_n feedback_tick
